US07449467B2
1-[5-(Trifluoromethyl)pyridin-3-yl]piperazine
tert-Butyl 4-[5-(trifluoromethyl)pyridin-3-yl]piperazine-1-carboxylate (0.24 g, 0.25 mmol) was treated with a 4.0 M solution of HCl in 1,4-dioxane (7 mL) at room temperature for 1 h and concentrated. The residue was used for next step without further purification. MS calculated for C10H12F3N3: (M+H) 232; found 232.1.

reactant | tert-Butyl 4-[5-(trifluoromethyl)pyridin-3-yl]piperazine-1-carboxylate | 0.25 mmol, 0.24 g | FC(C=1C=C(C=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C15H20F3N3O2
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 1-[5-(Trifluoromethyl)pyridin-3-yl]piperazine | FC(C=1C=C(C=NC1)N1CCNCC1)(F)F | C10H12F3N3
